US07491720B2
(1) Synthesis of 2-amino-6-(tert-butyldimethylsilyloxymethyl)pyridine
1.26 g (10.2 mmol) of 2-amino-6-hydroxymethylpyridine (Journal of Heterocyclic Chemistry, 2001, 38, 173) was dissolved in 5.1 mL of dimethylformamide and 1.7 g (25 mmol) of imidazole was added thereto. Under cooling with ice, 1.8 g (12 mmol) of tert-butyldimethylsilyl chloride was added thereto followed by stirring at room temperature for 1 hour. The reaction solution was diluted with ethyl acetate and the organic layer was washed with water and brine. This was dried over magnesium sulfate and filtered, and the filtrate was concentrated. The resulting residue was purified by a silica gel column chromatography to give 1.9 g of the title compound as an orange-colored oil.

reactant | 2-amino-6-hydroxymethylpyridine | 10.2 mmol, 1.26 g | NC1=NC(=CC=C1)CO | C6H8N2O
reactant | imidazole | 25 mmol, 1.7 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 12 mmol, 1.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 5.1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-6-(tert-butyldimethylsilyloxymethyl)pyridine | 1.9 g | NC1=NC(=CC=C1)CO[Si](C)(C)C(C)(C)C | C12H22N2OSi
